US06316482B1
To a solution of 2,2,6,6-tetramethylpiperidine (322 mg) in tetrahydrofuran (5.0 ml) was added dropwise a solution of n-butyllithium (1.6M n-hexane solution 1.3 ml) at −70˜−60° C. and the solution was stirred at 0° C. for 30 minutes. A solution of benzyl 1-tert-butoxycarbonylindole-4-carboxylate (500 mg) in tetrahydrofuran (2.5 ml) was added dropwise to the above solution at −70˜−60° C. and the mixture was stirred at −70° C. for 30 minutes. To the mixture was added a solution of ethyl chloroformate (185 mg) in tetrahydrofuran (2.5 ml) at such a rate as to maintain the temperature below −60° C. The solution was stirred at −70° C. for 2 hours and the reaction was quenched with aqueous saturated ammonium chloride solution at −20° C. The aqueous solution was extracted with ethyl acetate. Drying, filtering and removal of solvents afforded a crude product. The crude product was chromatographed on silica gel (eluent; n-hexane:ethyl acetate=15:1) to give benzyl 1-tert-butoxycarbonyl-2-ethoxycarbonylindole-4-carboxylate (100 mg) as a colorless oil.

reactant | 2,2,6,6-tetramethylpiperidine | 322 mg | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | 1.6M, 1.3 ml | C(CCC)[Li]
reactant | benzyl 1-tert-butoxycarbonylindole-4-carboxylate | 500 mg | C(C)(C)(C)OC(=O)N1C=CC=2C(=CC=CC12)C(=O)OCC1=CC=CC=C1 | C21H21NO4
reactant | ethyl chloroformate | 185 mg | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | benzyl 1-tert-butoxycarbonyl-2-ethoxycarbonylindole-4-carboxylate | 100 mg | C(C)(C)(C)OC(=O)N1C(=CC=2C(=CC=CC12)C(=O)OCC1=CC=CC=C1)C(=O)OCC | C24H25NO6
